US08563550B2
To a suspension of 2-amino-5-bromo-1,3,4-thiadiazole (1.65 g, 9.15 mmol) in water (27 mL) was added a water solution of chloroacetaldehyde (50% wt, 1.7 mL). The mixture was stirred at reflux. After 10 hours, a second addition of chloroacetaldehyde (1.5 eq, 1.7 mL) was done and stirring was continued until disappearance of starting material (20 hours). After cooling, the reaction mixture was neutralized with sodium bicarbonate (sat. aq. solution) and extracted with dichloromethane (3×30 mL). The combined organic layers were dried over sodium sulphate and the solvent evaporated under vacuum. The crude product was triturated with diethyl ether to yield 2-bromo-imidazo[2,1-b][1,3,4]thiadiazole as a white solid. The mother liquor was purified by flash chromatography (Biotage™, ethyl acetate:hexane, 3:7 to 7:3) to yield another batch of compound (20% global yield) as a white solid.

reactant | 2-amino-5-bromo-1,3,4-thiadiazole | 9.15 mmol, 1.65 g | NC=1SC(=NN1)Br | C2H2BrN3S
reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
reactant | chloroacetaldehyde | 1.7 mL, 1.5 eq | ClCC=O | C2H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 27 mL | O | H2O
product | 2-bromo-imidazo[2,1-b][1,3,4]thiadiazole | BrC1=NN2C(S1)=NC=C2 | C4H2BrN3S
